US05344843
A mixture of 4-[(3-phenylpropyl)oxy]-alpha-oxobenzeneacetic acid methyl ester (0.65 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided 0.6 g which solidified and was crystallized from benzene-hexane to give 0.45 g of colorless 4-[(3-phenylpropyl)oxy]-alpha-oxobenzeneacetic acid, mp 58°-59° C.

reactant | 4-[(3-phenylpropyl)oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.65 g | COC(C(C1=CC=C(C=C1)OCCCC1=CC=CC=C1)=O)=O | C18H18O4
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 4-[(3-phenylpropyl)oxy]-alpha-oxobenzeneacetic acid | 0.45 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)C(C(=O)O)=O | C17H16O4
